US07674801B2
6-Chloro-4-formyl-nicotinic acid
To a stirred solution of tetramethylpiperidine (6.89 mL, 40.8 mM) in dry tetrahydrofuran (20 mL), n-butyl lithium (36.5 mL, 1.12 mL, 40.8 mM) was added drop wise at −78° C. for 15 min. The reaction mixture was stirred at −78° C. for 30 min and at −50° C. for 30 min. 6-Chloro nicotinic acid (1.6 g, 10.2 mM) dissolved in dry tetrahydrofuran (10 mL) was added dropwise to the above reaction mixture for 15 min at −78° C. The reaction mixture was stirred at −78° C. for 30 min and at −50° C. for 30 min. Dry dimethyl formamide (5 mL) was added dropwise at −78° C. for 5 min. The reaction mixture was stirred at −78° C. for 30 min and at −50° C. for 30 min. After the completion of the reaction, reaction mixture was quenched with 2N hydrochloric (30 mL) extracted with ethyl acetate (2×150 mL). Organic layer dried over anhydrous MgSO4, then concentrated. The concentrate was subjected to column chromatography, and the product was eluted with 15% ethyl acetate in petroleum ether to get 1.01 g (53.19%) of the title compound. MS (APCI): 186 (M+H+) for C7H4ClNO3; NMR CD3OD): δ 6.18 (s, 1H), δ 7.75 (s, 1H), δ 8.74 (s, 1H).

reactant | tetramethylpiperidine | 40.8 mM, 6.89 mL | CC1C(N(CCC1)C)(C)C | C9H19N
reactant | 6-Chloro nicotinic acid | 10.2 mM, 1.6 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | n-butyl lithium | 40.8 mM, 36.5 mL | C(CCC)[Li]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 6-Chloro-4-formyl-nicotinic acid | 1.01 g, 53.19% | ClC1=NC=C(C(=O)O)C(=C1)C=O | C7H4ClNO3
